US04452851
To a suspension of benzhydryl 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.7 g) in methanol (60 ml) was added conc. hydrochloric acid (1.5 ml) at 35° C. and the mixture was stirred for 90 minutes at the same temperature. The reaction mixture was adjusted to pH 6.0 with an aqueous solution of sodium bicarbonate. Methanol was evaporated under reduced pressure and the residue was dissolved into ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give benzhydryl 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.0 g), mp. 171° to 176° C.

reactant | benzhydryl 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.7 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C34H34ClN5O7S3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | benzhydryl 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.0 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C33H34ClN5O6S3
